US04279912
800 mg of ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate were mixed with 10 ml of methanol and 20 ml of 1 N sodium hydroxide solution. The mixture obtained was refluxed for 1 hour and the solid sodium salt which separated out was filtered off and then was dissolved in 20 ml of water. The solution was acidified with concentrated hydrochloric acid to obtain a white precipitate of 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid. The precipitate was filtered off and was suspended in 10 ml of methanol and the suspension was acidified with HCl/methanol to obtain a clear solution to which diethyl ether was subsequently added to give 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid hydrochloride melting at 284°-286° C.

reactant | ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | 800 mg | ClC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)OCC | C15H13ClN2O3
reactant | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid | ClC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)O | C13H9ClN2O3
